2118-02-16 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA
   24 Hour Events:
 INVASIVE VENTILATION - START [**2118-2-15**] 07:47 PM
 ARTERIAL LINE - START [**2118-2-15**] 10:43 PM
   - Increasing agitation inspite of sedation.  Increased valium boluses
   to 20-40mg - likely EtOH w/d and will require significant doses of
   benzos
   - was hypotensive to 80's (MAP's maintained >65), responded to 1L NS
   bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2118-2-16**] 12:00 AM
   Azithromycin - [**2118-2-16**] 12:30 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2118-2-16**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-16**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 63 (63 - 94) bpm
   BP: 100/58(73) {90/54(69) - 107/62(78)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    245 mL
                                                                  2,315 mL
   PO:
             TF:
   IVF:
                                                                    245 mL
                                                                  2,315 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                    570 mL
   Urine:
                                                                     75 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                  1,747 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 31 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/54/102/24/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent
   Skin:  Warm, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   221 K/uL
   11.9 g/dL
   250 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   25 mg/dL
   110 mEq/L
   145 mEq/L
   34.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2118-2-15**]  08:00 PM
                             [**2118-2-15**]  08:06 PM
                             [**2118-2-16**]  03:15 AM
   WBC
   3.8
   4.1
   Hct
   37.9
   34.6
   Plt
   199
   221
   Cr
   0.9
   0.8
   TCO2
   29
   Glucose
   183
   250
   Other labs: PT / PTT / INR:14.6/34.1/1.3, Differential-Neuts:91.3 %,
   Lymph:5.9 %, Mono:2.6 %, Eos:0.1 %, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALCOHOL ABUSE
   58 yo M with PMH of hyperlipidemia transferred from OSH ICU where he
   was admitted for PNA, had EtOH w/d, was intubated.  Now still
   intubated, on broad spectrum abx and CIWA scale.
   # Pneumonia: ABg this morning 7.41.44.139.  Seen on OSH CXR as RLL
   infiltrate.  Admitted here on CTX, azithro and clinda.  Currently
   intubated. PORT score 108 giving him >2.8% mortality.  Aspiration PNA
   concerning given agitation, but also could be CAP given initial
   presentation.  Low concern for pseudomonas as not recently
   hospitalized, low concern for MRSA as not diabetic or
   immunocompromised. Low threshold for adding vanco if worsens. No
   further imaging now, but if does not improve, or worsens, will get CT
   chest to r/o empyema.  Patient agitated overnight requiring boluses of
   iv valium - increased dose range to 20-40mg q15min give hx of EtOh and
   likely withdrawal.
   - continue abx - has good typical, atypical and anerobic coverage,
   would consider Vanco if worsens
   - sputum cx for narrowing though patient has been on abx for 2 days
   - will r/o for influenza, on droplet precautions
   - urine legionella pending
   - albuterol inh prn
   - wean vent as tolerated, ABG with normal pH, good O2, normal CO2
   - wean off versed drip and use valium boluses only for
   agitation/sedation
   - arterial line placed for BP monitoring
   # Alcohol Withdrawal:  Was on CIWA scale at OSH.  Became agitated and
   eventually required intubation ? [**3-14**] aspiration event. Got banana bag
   at OSH.  Increasing agitation overnight, BP's stable, very likely EtOh
   w/d - treatment is benzos.  Would not give haldol or propofol as they
   lower seizure threshold.
   - continue CIWA scale with increased valium boluses as above, goal to
   wean off versed
   - thiamine, folate, MVI
 MCV 107 on admission
   - once extubated will need SW c/s for substance abuse
   - LFT
s at OSH wnl, will recheck here
   # Hyperlipidemia:  Continue home statin.
   #. History of Cocaine Abuse:
   - u tox pending
   - no beta blocker
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2118-2-15**] 07:40 PM
   Arterial Line - [**2118-2-15**] 10:43 PM
   18 Gauge - [**2118-2-16**] 12:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2118-02-16 08:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58M hyperlipidemia, smoking, EtOH abuse p/w 3-4 days of cough, SOB,
   rigors and evidence of RLL pneumonia on OSH CXR. Developed progressive
   agitation and respiratory distress, intubated with difficulty and
   transferred for further care.
   24 Hour Events:
   Increased agitation overnight- Valium titrated up.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2118-2-16**] 12:30 AM
   Clindamycin - [**2118-2-16**] 07:47 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2118-2-16**] 07:51 AM
   Other medications:
   MVI, folate, thiamine, Protonix, Heparin SC, RISS, Lipitor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-16**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 57 (57 - 94) bpm
   BP: 102/56(72) {90/54(69) - 107/62(78)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    245 mL
                                                                  2,600 mL
   PO:
             TF:
   IVF:
                                                                    245 mL
                                                                  2,600 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                    570 mL
   Urine:
                                                                     75 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                  2,030 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 30 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/54/102/24/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bilat)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   221 K/uL
   250 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   25 mg/dL
   110 mEq/L
   145 mEq/L
   34.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2118-2-15**]  08:00 PM
                             [**2118-2-15**]  08:06 PM
                             [**2118-2-16**]  03:15 AM
   WBC
   3.8
   4.1
   Hct
   37.9
   34.6
   Plt
   199
   221
   Cr
   0.9
   0.8
   TCO2
   29
   Glucose
   183
   250
   Other labs: PT / PTT / INR:14.6/34.1/1.3, Differential-Neuts:91.3 %,
   Lymph:5.9 %, Mono:2.6 %, Eos:0.1 %, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE- pna + underlying smoking hx + mental status
   changes from EtOH withdrawal and benzo tx
   -tx pna as below
   -monitor for COPD flare; cont inhaler tx for now, monitor for iPEEP
   -wean FiO2
   PNEUMONIA- CAP +/- ASPIRATION
   -cont current abx w/ CTX + azithro + clindamycin x 7d total
   -f/u cultures, Legionella Ag
   EtOH WITHDRAWAL- sedation per CIWA protocol
   -transition to Valium alone; wean Versed gtt as tolerated
   -cont MVI, thiamine, folate
   FEN-
   -tube feeds
   -follow lytes
   PROPHY- PPI, Peridex, SC heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-2-15**] 07:40 PM
   Arterial Line - [**2118-2-15**] 10:43 PM
   18 Gauge - [**2118-2-16**] 12:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition : critically ill, to remain in ICU
   Total time spent: 30 min
   ------ Protected Section ------
   Spent an additional 30 minutes assessing patient, discussing with team
   and formulating ongoing plans over the course of the day today
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2118-2-16**] 16:32 ------

2118-02-17 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2118-2-16**] 03:10 PM
   - Bld cx Aerobic bottle grew Gram +cocci, clusters and pairs
   - Desaturated to the mid 80s, improved following suction. ABG
   unremarkable no changes made.
   - Spiked a temp of 100.6 @ MN, received bld cultures from his PICC and
   A-line
   - SBP dropped intermittently to mid 90s received 1l NS of bolus which
   BP responded to.
   -Notified at 0620 that pt was again desaturating to mid80s with no
   improvement after suctioning. CXR portable obtained showing no interval
   worsening within the parenchymal fields. No elevation in peak pressures
   noted, no tachycardia, BP normotensive, lung volumes consistent. PEEP
   was increased from 5 to 10 saturation improved to mid 90s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2118-2-16**] 08:40 AM
   Clindamycin - [**2118-2-16**] 11:45 PM
   Azithromycin - [**2118-2-17**] 12:16 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2118-2-16**] 02:30 PM
   Midazolam (Versed) - [**2118-2-16**] 02:49 PM
   Diazepam (Valium) - [**2118-2-16**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 75 (57 - 107) bpm
   BP: 95/47(62) {87/44(57) - 123/64(82)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,282 mL
                                                                  1,901 mL
   PO:
             TF:
                                                                     80 mL
                                                                    148 mL
   IVF:
                                                                  3,142 mL
                                                                  1,694 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    295 mL
   Urine:
                                                                  1,335 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,947 mL
                                                                  1,606 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/44/60/24/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminshed diffusely over lung fields )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent
   Skin:  Warm, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   269 K/uL
   11.8 g/dL
   154 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   25 mg/dL
   113 mEq/L
   146 mEq/L
   34.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2118-2-15**]  08:00 PM
                             [**2118-2-15**]  08:06 PM
                             [**2118-2-16**]  03:15 AM
                             [**2118-2-16**]  08:42 AM
                             [**2118-2-16**]  10:58 AM
                             [**2118-2-16**]  11:56 PM
                             [**2118-2-17**]  03:47 AM
                             [**2118-2-17**]  06:58 AM
   WBC
   3.8
   4.1
   8.8
   Hct
   37.9
   34.6
   34.2
   Plt
   199
   221
   269
   Cr
   0.9
   0.8
   0.9
   TCO2
   29
   29
   28
   31
   28
   Glucose
   183
   250
   154
   Other labs: PT / PTT / INR:14.6/34.1/1.3, ALT / AST:17/40, Alk Phos / T
   Bili:80/0.7, Differential-Neuts:91.3 %, Lymph:5.9 %, Mono:2.6 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:180 IU/L, Ca++:7.7 mg/dL, Mg++:2.5
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALCOHOL ABUSE
   58 yo M with PMH of hyperlipidemia transferred from OSH ICU where he
   was admitted for PNA, had EtOH w/d, was intubated.  Now still
   intubated, on broad spectrum abx and CIWA scale.
   # Alcohol Withdrawal:  Pt was on CIWA scale at OSH where he became
   agitated eventually requiring intubation ? [**3-14**] aspiration event. Got
   banana bag at OSH.  Increasing agitation overnight, BP's stable, very
   likely EtOh w/d - treatment is benzos.  Would not give haldol or
   propofol as they lower seizure threshold. Pt still in withdrawal will
   try and wean off diazepam.
   - continue CIWA scale with valium boluses as above, goal to wean off
   - thiamine, folate, MVI
 MCV 107 on admission
   - once extubated will need SW c/s for substance abuse
   #. Bactermia: Last night pt
s bld culture x 2 bottle showed GPC in
   clusters and chains. Pt currently on Ceftriaxone and Clindamycin which
   provides adequate coverage for Staph/Strep. If pt decompensates would
   consider adding Vancomycin to his regimen for MRSA coverage. Will f/u
   on speciation and sensitivities.
 f/u cultures speciation and sensitivities
 Will narrow down abx spectrum following sensitivities
 Consider adding Vancomycin for MRSA coverage if pt decompensates.
   #. Hypoxia: Pt was noted to be hypoxic to the mid 80s last night which
   appeared to resolve following suction of a mucous plug. Again this
   morning he desaturated to 89%, CXR x 2 obtained which showed no
   interval worsening of parenchymal appearance. PEEP increased from 5 to
   10 which helped oxygenation, ?hypoxic event may be [**3-14**] atelectasis. Pt
   showed no unstable BP, tachycardia or change in lung volumes or peak
   pressures.
 ? atelectasis as cause of hypoxia given improvement with increased
   PEEP, CXR that shows parenchymal improvement.
   # Pneumonia: Currently on CTX, azithro and clinda and currently
   intubated. PORT score 108 giving him >2.8% mortality.  Aspiration PNA
   concerning given agitation, but also could be CAP given initial
   presentation.  Low concern for pseudomonas as not recently
   hospitalized, low concern for MRSA as not diabetic or
   immunocompromised. If pt starts to decompensate would consider adding
   Vancomycin for MRSA coverage. Will resend a DFA as there were not
   enough cells in the last sample.
   - continue abx - has good typical, atypical and anerobic coverage,
   would consider Vanco if worsens
   - sputum cx for narrowing though patient has been on abx for 2 days
   - will recheck DFA today, continue droplet precautions
   - albuterol inh prn
   - wean vent as tolerated
   - wean off diazepam boluses
   - arterial line placed for BP monitoring
   # Hyperlipidemia:  Continue home statin.
   #. History of Cocaine Abuse:
   - u tox pending
   - no beta blocker
   # Etoh Abuse: Pt
s family are interested in any resources to help pt
   with his Etoh Abuse. Pt once extubated and more coherent will need
   extensive social work up for detox placement as well as a visit with
   the addiction specialists.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-2-15**] 10:43 PM
   18 Gauge - [**2118-2-16**] 12:31 AM
   PICC Line - [**2118-2-16**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-02-17 10:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hypoxemia o/n resolved w/ clearance of tenacious mucus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2118-2-17**] 12:16 AM
   Clindamycin - [**2118-2-17**] 08:00 AM
   Ceftriaxone - [**2118-2-17**] 08:16 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2118-2-16**] 02:30 PM
   Midazolam (Versed) - [**2118-2-16**] 02:49 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-17**] 12:00 AM
   Diazepam (Valium) - [**2118-2-17**] 09:00 AM
   Other medications:
   MVI, thiamine, folate, nicotine patch, Protonix, RISS, Peridex,
   Lipitor, Valium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-17**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 69 (57 - 107) bpm
   BP: 97/51(66) {87/43(57) - 123/64(82)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,282 mL
                                                                  2,176 mL
   PO:
             TF:
                                                                     80 mL
                                                                    148 mL
   IVF:
                                                                  3,142 mL
                                                                  1,848 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    375 mL
   Urine:
                                                                  1,335 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,947 mL
                                                                  1,801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 38 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/47/74/24/1
   Ve: 11.9 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   269 K/uL
   154 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   25 mg/dL
   113 mEq/L
   146 mEq/L
   34.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2118-2-15**]  08:00 PM
                             [**2118-2-15**]  08:06 PM
                             [**2118-2-16**]  03:15 AM
                             [**2118-2-16**]  08:42 AM
                             [**2118-2-16**]  10:58 AM
                             [**2118-2-16**]  11:56 PM
                             [**2118-2-17**]  03:47 AM
                             [**2118-2-17**]  06:58 AM
                             [**2118-2-17**]  08:03 AM
   WBC
   3.8
   4.1
   8.8
   Hct
   37.9
   34.6
   34.2
   Plt
   199
   221
   269
   Cr
   0.9
   0.8
   0.9
   TCO2
   29
   29
   28
   31
   28
   29
   Glucose
   183
   250
   154
   Other labs: PT / PTT / INR:14.6/34.1/1.3, ALT / AST:17/40, Alk Phos / T
   Bili:80/0.7, Differential-Neuts:91.3 %, Lymph:5.9 %, Mono:2.6 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:180 IU/L, Ca++:7.7 mg/dL, Mg++:2.5
   mg/dL, PO4:2.0 mg/dL
   Imaging: CXR- RLL infiltrate, B effusions
   Microbiology: Blood cx- [**3-14**] bottle GPC clusters, pairs
   Sputum cx- pending
   Assessment and Plan
   RESPIRATORY FAILURE- pna + underlying smoking hx + mental status
   changes from EtOH withdrawal and benzo tx
   -tx pna as below
   -monitor for COPD flare; cont inhaler tx for now, monitor for iPEEP
   -undergoing influenza DFA
   -wean FiO2 as tolerated.
   PNEUMONIA- CAP +/- ASPIRATION
   -cont current abx w/ CTX + azithro + clindamycin x 7d total
   -given GPCs in blood, add vanco if spikes or hemodyn instability
   -f/u cultures, Legionella Ag
   EtOH WITHDRAWAL- sedation per CIWA protocol
   -transition to Valium alone; wean Versed gtt as tolerated
   -cont MVI, thiamine, folate
   FEN-
   -tube feeds
   -follow lytes
   PROPHY- PPI, Peridex, SC heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-2-15**] 10:43 PM
   18 Gauge - [**2118-2-16**] 12:31 AM
   PICC Line - [**2118-2-16**] 03:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-02-18 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA, hypoxia, EtOh withdrawal
   24 Hour Events:
   - Patient became awake and calm over the day.
   - Patient changed from CMV to pressure support and his ABG after the
   change was 7.4/51/123.  Will cut his sedation in half by 4 am so he
   will be more awake by rounds.
   - Flu DFA negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2118-2-17**] 08:16 AM
   Clindamycin - [**2118-2-17**] 11:45 PM
   Azithromycin - [**2118-2-18**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-2-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-17**] 11:45 PM
   Diazepam (Valium) - [**2118-2-18**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-18**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 71 (68 - 103) bpm
   BP: 120/55(75) {90/43(58) - 150/74(104)} mmHg
   RR: 10 (7 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.3 kg (admission): 70 kg
             Total In:
                                                                  3,047 mL
                                                                    762 mL
   PO:
             TF:
                                                                    621 mL
                                                                    299 mL
   IVF:
                                                                  2,196 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                  1,028 mL
                                                                    400 mL
   Urine:
                                                                  1,028 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,019 mL
                                                                    362 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 500 (500 - 669) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.45/45/116/30/7
   Ve: 6.9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, intubated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: regular rate, no mrg
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: rhonochorous, good air movement, no wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: 1+ edema in LE
   Skin:  Warm,
   Neurologic: opens eyes, responds with questions
   Labs / Radiology
   287 K/uL
   12.2 g/dL
   135 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   16 mg/dL
   111 mEq/L
   146 mEq/L
   35.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2118-2-16**]  08:42 AM
                             [**2118-2-16**]  10:58 AM
                             [**2118-2-16**]  11:56 PM
                             [**2118-2-17**]  03:47 AM
                             [**2118-2-17**]  06:58 AM
                             [**2118-2-17**]  08:03 AM
                             [**2118-2-17**]  08:57 PM
                             [**2118-2-18**]  12:12 AM
                             [**2118-2-18**]  03:40 AM
                             [**2118-2-18**]  03:53 AM
   WBC
   8.8
   7.6
   Hct
   34.2
   35.0
   Plt
   269
   287
   Cr
   0.9
   0.7
   TCO2
   29
   28
   31
   28
   29
   33
   33
   32
   Glucose
   154
   135
   Other labs: PT / PTT / INR:15.1/33.5/1.3, ALT / AST:17/40, Alk Phos / T
   Bili:80/0.7, Differential-Neuts:91.3 %, Lymph:5.9 %, Mono:2.6 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:180 IU/L, Ca++:8.3 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   MICRO:
   GPC in blood
   CXR: Unchange from yesteryda, cannot see LLL as cut off
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALCOHOL ABUSE
   58 yo M with PMH of hyperlipidemia transferred from OSH ICU where he
   was admitted for PNA, had EtOH w/d, was intubated.  Now still
   intubated, on broad spectrum abx and CIWA scale.  RSBI 18,
   signiifcantly mor alert this morning.
   # Alcohol Withdrawal:  Pt was on CIWA scale at OSH where he became
   agitated eventually requiring intubation ? [**3-14**] aspiration event. Got
   banana bag at OSH.  Increasing agitation overnight, BP's stable, very
   likely EtOh w/d - treatment is benzos.  Would not give haldol or
   propofol as they lower seizure threshold. Pt still in withdrawal will
   try and wean off diazepam.  Last dose of valium was at 10pm last night,
   off of sedation currently.
   - continue CIWA scale with valium boluses as above, goal to wean off
   - thiamine, folate, MVI
 MCV 107 on admission
   - once extubated will need SW c/s for substance abuse
   #. Bactermia: Blood culture from [**2-16**] x 2 bottle showed GPC in clusters
   and chains. Pt currently on Ceftriaxone, azithro and Clindamycin which
   provides adequate coverage for Staph/Strep. If pt decompensates would
   consider adding Vancomycin to his regimen for MRSA coverage. Will f/u
   on speciation and sensitivities.
   - f/u cultures speciation and sensitivities
   -Will narrow down abx spectrum following sensitivities
   - Consider adding Vancomycin for MRSA coverage if pt decompensates.
    #. Hypoxia: Improving.  Now on PSV, on 0 of PEEP, RSMBI 18.  2 nights
   ago, he was noted to be hypoxic to the mid 80s last night which
   appeared to resolve following suction of a mucous plug. Yesterday he
   desaturated to 89%, CXR x 2 obtained which showed no interval worsening
   of parenchymal appearance. PEEP increased from 5 to 10 which helped
   oxygenation, ?hypoxic event may be [**3-14**] atelectasis. Pt showed no
   unstable BP, tachycardia or change in lung volumes or peak pressures.
   - given excellent improvement in respiratory status and maintaining
   well on PSV, plan to extubate this morning
   # Pneumonia: Currently on CTX, azithro and clinda and currently
   intubated. PORT score 108 giving him >2.8% mortality.  Aspiration PNA
   concerning given agitation, but also could be CAP given initial
   presentation.  Low concern for pseudomonas as not recently
   hospitalized, low concern for MRSA as not diabetic or
   immunocompromised. If pt starts to decompensate would consider adding
   Vancomycin for MRSA coverage. Will resend a DFA as there were not
   enough cells in the last sample.
   - continue abx - has good typical, atypical and anerobic coverage,
   would consider Vanco if worsens
   - sputum cx pending
   - DFA negative
   - albuterol inh prn
   - extubate as above
   - wean off diazepam boluses
   - can d/c a-line once extubated
   # Hyperlipidemia:  Continue home statin.
   #. History of Cocaine Abuse:
   - u tox pending
   - no beta blocker
   # Etoh Abuse: Pt
s family are interested in any resources to help pt
   with his Etoh Abuse. Pt once extubated and more coherent will need
   extensive social work up for detox placement as well as a visit with
   the addiction specialists.
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2118-2-15**] 10:43 PM
   18 Gauge - [**2118-2-16**] 12:31 AM
   PICC Line - [**2118-2-16**] 03:10 PM
   Prophylaxis:
   DVT:  heparin sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2118-02-18 10:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   More alert today. Weaning vent support. Much less tremulous. Thin
   secretions only
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2118-2-18**] 12:00 AM
   Ceftriaxone - [**2118-2-18**] 07:40 AM
   Clindamycin - [**2118-2-18**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-2-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-17**] 11:45 PM
   Diazepam (Valium) - [**2118-2-18**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-18**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 90 (68 - 103) bpm
   BP: 130/62(86) {100/49(66) - 151/77(104)} mmHg
   RR: 13 (7 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.3 kg (admission): 70 kg
             Total In:
                                                                  3,047 mL
                                                                    910 mL
   PO:
             TF:
                                                                    621 mL
                                                                    299 mL
   IVF:
                                                                  2,196 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  1,028 mL
                                                                    540 mL
   Urine:
                                                                  1,028 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,019 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 453 (453 - 669) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 11 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.45/45/116/30/7
   Ve: 10.7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilat)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.2 g/dL
   287 K/uL
   135 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   16 mg/dL
   111 mEq/L
   146 mEq/L
   35.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2118-2-16**]  08:42 AM
                             [**2118-2-16**]  10:58 AM
                             [**2118-2-16**]  11:56 PM
                             [**2118-2-17**]  03:47 AM
                             [**2118-2-17**]  06:58 AM
                             [**2118-2-17**]  08:03 AM
                             [**2118-2-17**]  08:57 PM
                             [**2118-2-18**]  12:12 AM
                             [**2118-2-18**]  03:40 AM
                             [**2118-2-18**]  03:53 AM
   WBC
   8.8
   7.6
   Hct
   34.2
   35.0
   Plt
   269
   287
   Cr
   0.9
   0.7
   TCO2
   29
   28
   31
   28
   29
   33
   33
   32
   Glucose
   154
   135
   Other labs: PT / PTT / INR:15.1/33.5/1.3, ALT / AST:17/40, Alk Phos / T
   Bili:80/0.7, Differential-Neuts:91.3 %, Lymph:5.9 %, Mono:2.6 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:180 IU/L, Ca++:8.3 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Imaging: CXR- v poor quality, resolving RLL infiltrate
   Microbiology: BCx ([**2-15**])- GPCs
   BCx ([**2-17**])- GPCs
   Assessment and Plan
   RESPIRATORY FAILURE- pna + underlying smoking hx + mental status
   changes from EtOH withdrawal and benzo tx  --> resolving
   -poss extubation today, has passed SBT
   -tx pna as below
   -monitor for COPD flare; cont inhaler tx for now, monitor for iPEEP
   -undergoing influenza DFA
   -wean FiO2 as tolerated.
   PNEUMONIA- CAP +/- ASPIRATION
   -cont current abx w/ CTX + azithro + clindamycin x 7d total
   -given GPCs in blood, add vanco if spikes or hemodyn instability -->
   check echo and pull PICC
   -f/u cultures, Legionella Ag
   EtOH WITHDRAWAL- sedation per CIWA protocol
   -transition to Valium alone; wean Versed gtt as tolerated
   -cont MVI, thiamine, folate
   FEN-
   -tube feeds
   -follow lytes
   PROPHY- PPI, Peridex, SC heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-2-15**] 10:43 PM
   18 Gauge - [**2118-2-16**] 12:31 AM
   PICC Line - [**2118-2-16**] 03:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2118-02-19 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2118-2-18**] 11:34 AM
   - extubated successfully
   - echo not done
   - blood culture sensitivities still pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2118-2-18**] 07:40 AM
   Clindamycin - [**2118-2-19**] 12:00 AM
   Azithromycin - [**2118-2-19**] 12:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-2-18**] 08:43 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 71 (71 - 110) bpm
   BP: 147/75(93) {131/64(81) - 156/108(115)} mmHg
   RR: 11 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.3 kg (admission): 70 kg
             Total In:
                                                                  1,108 mL
                                                                    675 mL
   PO:
             300 mL
   TF:
                                                                    299 mL
   IVF:
                                                                    709 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    580 mL
   Urine:
                                                                  1,630 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -522 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 775 (453 - 775) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 5%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, intubated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: regular rate, no mrg
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: rhonochorous, good air movement, no wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: 1+ edema in LE
   Skin:  Warm,
   Neurologic: opens eyes, responds with questions
   Labs / Radiology
   287 K/uL
   12.1 g/dL
   219 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   9 mg/dL
   101 mEq/L
   139 mEq/L
   35.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2118-2-16**]  10:58 AM
                             [**2118-2-16**]  11:56 PM
                             [**2118-2-17**]  03:47 AM
                             [**2118-2-17**]  06:58 AM
                             [**2118-2-17**]  08:03 AM
                             [**2118-2-17**]  08:57 PM
                             [**2118-2-18**]  12:12 AM
                             [**2118-2-18**]  03:40 AM
                             [**2118-2-18**]  03:53 AM
                             [**2118-2-19**]  05:24 AM
   WBC
   8.8
   7.6
   8.3
   Hct
   34.2
   35.0
   35.0
   Plt
   [**Telephone/Fax (3) 4934**]
   Cr
   0.9
   0.7
   0.5
   TCO2
   28
   31
   28
   29
   33
   33
   32
   Glucose
   154
   135
   219
   Other labs: PT / PTT / INR:15.8/33.6/1.4, ALT / AST:17/40, Alk Phos / T
   Bili:80/0.7, Differential-Neuts:91.3 %, Lymph:5.9 %, Mono:2.6 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:180 IU/L, Ca++:8.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALCOHOL ABUSE
   58 yo M with PMH of hyperlipidemia transferred from OSH ICU where he
   was admitted for PNA, had EtOH w/d, was intubated.  Now s/p extubation
   yesterday with 2 bottles + Coag neg staph and +GPC bld cultures,
   currently on broad spectrum abx and CIWA scale.
   # Alcohol Withdrawal:  Pt was on CIWA scale at OSH where he became
   agitated eventually requiring intubation ? [**3-14**] aspiration event. Got
   banana bag at OSH.  Increasing agitation overnight, BP's stable, very
   likely EtOh w/d - treatment is benzos.  Would not give haldol or
   propofol as they lower seizure threshold. Pt has required less Diazepam
   with lower CIWA scores over the past 24 hours. Received 10mg this AM
   after appearing diaphoretic.
   - continue CIWA scale with valium PO, though currently pt has required
   less, likely withdrawal is complete, likely call out to floor later
   today if bed needed.
   - will continue thiamine, folate, MVI
 MCV 107 on admission
   - SW consult for substance abuse
   #. Bactermia: Blood culture from [**2-15**] x 1 bottle and [**2-17**] x 2 bottles
   speciated to Coag negative staph sensitive to Vancomycin. Pt currently
   on Ceftriaxone day #5, azithro day #5 and Clindamycin #5. Based on the
   bld cultures will start Vancomycin today. Coag negative staph are +
   from cultures on admission to ICU from OSH. Pt currently has a PICC
   line that was placed after the first positive bld [**Last Name (LF) 4945**], [**First Name3 (LF) **] however
   draw cultures from PICC and peripheral line. Will d/c Azithromycin as
   pt has completed which provides adequate coverage for Staph/Strep. If
   pt decompensates would consider adding Vancomycin to his regimen for
   MRSA coverage. Will f/u on speciation and sensitivities.
   - f/u cultures speciation and sensitivities
   -Will narrow down abx spectrum following sensitivities
   - Consider adding Vancomycin for MRSA coverage if pt decompensates.
    #. Hypoxia: Improving.  Now on PSV, on 0 of PEEP, RSMBI 18.  2 nights
   ago, he was noted to be hypoxic to the mid 80s last night which
   appeared to resolve following suction of a mucous plug. Yesterday he
   desaturated to 89%, CXR x 2 obtained which showed no interval worsening
   of parenchymal appearance. PEEP increased from 5 to 10 which helped
   oxygenation, ?hypoxic event may be [**3-14**] atelectasis. Pt showed no
   unstable BP, tachycardia or change in lung volumes or peak pressures.
   - given excellent improvement in respiratory status and maintaining
   well on PSV, plan to extubate this morning
   # Pneumonia: Currently on CTX, azithro and clinda and currently
   intubated. PORT score 108 giving him >2.8% mortality.  Aspiration PNA
   concerning given agitation, but also could be CAP given initial
   presentation.  Low concern for pseudomonas as not recently
   hospitalized, low concern for MRSA as not diabetic or
   immunocompromised. If pt starts to decompensate would consider adding
   Vancomycin for MRSA coverage. Will resend a DFA as there were not
   enough cells in the last sample.
   - continue abx - has good typical, atypical and anerobic coverage,
   would consider Vanco if worsens
   - sputum cx pending
   - DFA negative
   - albuterol inh prn
   - extubate as above
   - wean off diazepam boluses
   - can d/c a-line once extubated
   # Hyperlipidemia:  Continue home statin.
   #. History of Cocaine Abuse:
   - u tox pending
   - no beta blocker
   # Etoh Abuse: Pt
s family are interested in any resources to help pt
   with his Etoh Abuse. Pt once extubated and more coherent will need
   extensive social work up for detox placement as well as a visit with
   the addiction specialists.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-2-16**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-02-19 12:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failiure, pneumonia, EtOH withdrawal,
   staph bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated yesterday.
   Multiple blood culture bottles growing coag negative staph ([**2-15**] and
   [**2-17**]). Afebrile. He has been hemodynamically stable. Oxygenation good on
   minimal supplemental oxygen.
   Patient still tremulous this AM. Received 10 mg valium this AM.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2118-2-18**] 11:34 AM
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2118-2-19**] 12:58 AM
   Ceftriaxone - [**2118-2-19**] 08:00 AM
   Clindamycin - [**2118-2-19**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-2-18**] 08:43 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-19**] 08:40 AM
   Other medications:
   Valium, MVI, folic acid, nicotine patch, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-19**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 75 (71 - 87) bpm
   BP: 136/85(97) {131/68(85) - 156/108(115)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.3 kg (admission): 70 kg
             Total In:
                                                                  1,108 mL
                                                                  1,301 mL
   PO:
             780 mL
   TF:
                                                                    299 mL
   IVF:
                                                                    709 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    850 mL
   Urine:
                                                                  1,630 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -522 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Few, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   287 K/uL
   219 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   9 mg/dL
   101 mEq/L
   139 mEq/L
   35.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2118-2-16**]  10:58 AM
                             [**2118-2-16**]  11:56 PM
                             [**2118-2-17**]  03:47 AM
                             [**2118-2-17**]  06:58 AM
                             [**2118-2-17**]  08:03 AM
                             [**2118-2-17**]  08:57 PM
                             [**2118-2-18**]  12:12 AM
                             [**2118-2-18**]  03:40 AM
                             [**2118-2-18**]  03:53 AM
                             [**2118-2-19**]  05:24 AM
   WBC
   8.8
   7.6
   8.3
   Hct
   34.2
   35.0
   35.0
   Plt
   [**Telephone/Fax (3) 4934**]
   Cr
   0.9
   0.7
   0.5
   TCO2
   28
   31
   28
   29
   33
   33
   32
   Glucose
   154
   135
   219
   Other labs: PT / PTT / INR:15.8/33.6/1.4, ALT / AST:17/40, Alk Phos / T
   Bili:80/0.7, Differential-Neuts:91.3 %, Lymph:5.9 %, Mono:2.6 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:180 IU/L, Ca++:8.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALCOHOL ABUSE
   BACTEREMIA
   ACUTE RESPIRATORY FAILURE
   Patient doing well of the ventilator. Oxygenation quite good on minimal
   supplemental oxygen. Attempt to ambulate to chair as strength improves.
   Continue antibiotics for pneumonia.
   Bacteremia with staph epi. Unclear source. The first culture was before
   the PIC line was placed. Will draw addtional cultures today and begin
   vanco. Echo yesterday negative for vegetations.
   Patient continues to show signs of EtOH withdrawal. Continue on CIWA
   scale.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-2-16**] 03:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill